US05945422
6-(2,6-Dichlorophenyl)-2-(2-methoxyphenylamino)-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one
A mixture of 0.113 g (0.29 mmol) of 6-(2,6-dichlorophenyl)-2-methanesulfonyl-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one and 0.50 g (4.10 mmol) of 2-methoxyaniline was heated, with stirring, in a 175° C. oil bath. The resulting solution was heated for 5 minutes and cooled to room temperature. Ether (2 mL) was added. The crystals that developed were filtered and washed with 1 mL of ether; wt 0.070 g. The solid was purified to remove dark colors by silica gel chromatography, eluting with chloroform. Recrystallization from ether gave pure product; wt 0.029 g; mp 200-201° C.

reactant | 6-(2,6-dichlorophenyl)-2-methanesulfonyl-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.29 mmol, 0.113 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)C | C15H11Cl2N3O3S
reactant | 2-methoxyaniline | 4.10 mmol, 0.50 g | COC1=C(N)C=CC=C1 | C7H9NO
solvent | Ether | 2 mL | CCOCC | C4H10O
product | 6-(2,6-Dichlorophenyl)-2-(2-methoxyphenylamino)-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)NC2=C(C=CC=C2)OC)N(C1=O)C | C21H16Cl2N4O2
